US08003785B2
To a solution of 11.8 g (0.028 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(trans-2-phenyl-cyclopropyl)-amino]-2,2-difluoro-propionic acid ethyl ester (IV-287) in 180 mL of acetic acid was added 11 g (0.20 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hours and then filtered while hot. Water and ethyl acetate were added to the filtrate and the mixture was stirred for 10 minutes and then filtered. The layers were separated. The organic layer was washed successively with ammonium hydroxide and water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 7.95 g of 2-chloro-7,7-difluoro-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-287) as a yellow foam.

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(trans-2-phenyl-cyclopropyl)-amino]-2,2-difluoro-propionic acid ethyl ester | 0.028 mole, 11.8 g | C(C)OC(C(CN([C@H]1[C@@H](C1)C1=CC=CC=C1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C18H17ClF2N4O4
solvent | acetic acid | 180 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 11 g | [Fe] | Fe
product | 2-chloro-7,7-difluoro-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 7.95 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)[C@H]2[C@@H](C2)C2=CC=CC=C2)N1 | C16H13ClF2N4O
